US08030516B2
4-tert-Butylphenol (98 g, 0.650 mol) was charged into a 2 L three-necked round bottom flask equipped with a mechanical stirrer, a dropping funnel, and a condenser. The flask was purged with nitrogen gas and a solution of 26.7 g of sodium hydroxide (0.650 mol) in 820 mL of water was added to the flask. The stirred reaction mixture was heated at 50° C. until 4-tert-butylphenol was completely dissolved. In this way, 4-tert-butylphenol was reacted with sodium hydroxide to form sodium 4-tert-butylphenolate. The solution of sodium 4-tert-butylphenolate in water was then cooled to 20° C. and 350 mL of dichloromethane was added to the solution. The organic layer obtained in step two, which contained 0.325 mol of the perfluoropropane-1,3-di(sulfonyl halides), was dropwise added to the reaction mixture for 2 hours under nitrogen atmosphere. The reaction mixture was stirred at 20° C. for 12 hours and transferred to a separatory funnel. The upper water layer was separated from the lower organic (dichloromethane) layer. The water layer was then washed by 300 mL of ethyl acetate. The water layer was 953 g. 19F-NMR analysis (using hexafluoroglutaric acid as a reference) showed that the water layer contained 0.295 mol of sodium perfluoropropane-1,3-di(sulfinate). The yield was 91%. 19F-NMR (in D2O); δ −122.9 (s, 2F, CF2), −129.8 (s, 4F, CF2S) ppm.

reactant | 4-tert-Butylphenol | 0.650 mol, 98 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydroxide | 0.650 mol, 26.7 g | [OH-].[Na+]
solvent | water | 820 mL | O | H2O
product | sodium 4-tert-butylphenolate | yield was 91% | C(C)(C)(C)C1=CC=C(C=C1)[O-].[Na+] | InChI=1S/C10H14O.Na/c1-10(2,3)8-4-6-9(11)7-5-8;/h4-7,11H,1-3H3;/q;+1/p-1
